US09023844B2
93 mg (0.3 mmol) of 4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-amine and 46 mg (0.36 mmol, 1.2 eq) of Huenigs base are dissolved in 2 mL tetrahydrofuran. To this are added 63 mg of cyclopropanecarbonyl chloride (0.6 mmol, 2 eq) and the reaction mixture is stirred for 16 hrs at room temperature. Next, the volatile components are removed under vacuum and the crude material treated with 3 mL NH3 in methanol (7 molar). The mixture is stirred for 16 hrs at room temperature and then evaporated. The crude product is purified by preparative HPLC (Phenomenex AMA Gemini C18; 110 A; 10 μm 100×30 mm, gradient: 0-2.0 mins 80% water, 20% acetonitrile, 2.0-12.0 mins linear gradient up to 25% water, 75% acetonitrile, 12.0-16.0 mins 5% water, 95% acetonitrile, modifier 15% NH4OH in H2O, addition of the modifier at 1.0 mL/min throughout the separation). 38.2 mg (33%) of N-{4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-yl}cyclo-propanecarboxamide are obtained as a colourless solid.

reactant | 4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-amine | 0.3 mmol, 93 mg | FC1=CC=C(C=C1)C1=NN2C(OCCC2)=C1C1=CC(=NC=C1)N | C17H15FN4O
reactant | Huenigs base | 0.36 mmol, 46 mg, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 0.6 mmol, 63 mg, 2 eq | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-{4-[2-(4-fluorophenyl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-3-yl]pyridin-2-yl}cyclo-propanecarboxamide | 38.2 mg, 33% | FC1=CC=C(C=C1)C1=NN2C(OCCC2)=C1C1=CC(=NC=C1)NC(=O)C1CC1 | C21H19FN4O2
